US04109081
3-Acetamido-5-amino-2,4,6-triiodobenzoic acid (I; 228.76 g., 0.4 mole) was added to an anhydrous ethanolic solution of sodium ethoxide (prepared from 18.4 g. (0.8 g. atom) of sodium) at 45° C. After 10 minutes, the homogeneous solution was cooled to 22° C. and methyl iodide (62.48 g.; 0.44 mole) was added. The reaction mixture was heated at 50°-55° C. for 30 minutes, at 62° C. for 30 minutes and finally at 68°-70° C. for 15 minutes. The reaction mixture was now pH 8. Methyl iodide (1 ml.) was added and heating was continued at 70° C. for 15 minutes after which the solution was neutral. The ethanol was removed under reduced pressure and water (1300 ml.) was added to the residue. The solid which dropped out of solution was collected; the filtrate was basified (~pH 10) with 50% sodium hydroxide and was washed with a 3:1 chloroform-isopropyl alcohol mixture (800 ml.). The aqueous layer was acidified to pH 5 with acetic acid and treated with activated charcoal marketed under the trade designation "Darco G-60" (5 g.) for 1 hour. The filtered solution was added to 6N hydrochloric acid (700 ml.) at room temperature to precipitate the product. The precipitate was digested for 10 minutes and was then collected, washed with water (500 ml.), and dried at 60° C. overnight to yield 193.5 g. of 3-amino-2,4,6-triiodo-5-(N-methylacetamido)benzoic acid (82.6% yield). The product was homogeneous by thin-layer chromatography (chloroform-ethyl acetate-acetic acid, 30:20:1) and the structure of the product was confirmed by nuclear magnetic resonance spectroscopy.

reactant | 3-Acetamido-5-amino-2,4,6-triiodobenzoic acid | 0.4 mole, 228.76 g | C(C)(=O)NC=1C(=C(C(=O)O)C(=C(C1I)N)I)I | C9H7I3N2O3
reactant | sodium ethoxide | 18.4 g | [O-]CC.[Na+]
reactant | sodium | 0.8 g | [Na] | Na
reactant | methyl iodide | 0.44 mole, 62.48 g | CI | CH3I
reactant | Methyl iodide | 1 ml | CI | CH3I
product | 3-amino-2,4,6-triiodo-5-(N-methylacetamido)benzoic acid | 82.6% yield | NC=1C(=C(C(=O)O)C(=C(C1I)N(C(C)=O)C)I)I | C10H9I3N2O3
